US07897600B2
2-Chloro-1-(4-chloro-2-fluorophenyl)ethanone
In a 1 L round bottom flask combine 4′-chloro-2′-fluoroacetophenone (40 g, 231.8 mmol), heptane (120 mL), and methanol (16 mL). Cool to 0° C. and place under nitrogen. Dissolve sulfuryl chloride (21.5 mL, 1.15 equiv.) in heptane (120 mL) and charge to an addition funnel Add drop-wise to the reaction over 60 min. Stir for 2.5 h at 0° C.; a white precipitate forms during this time. Charge the addition funnel with 1 M sodium bicarbonate (400 mL) then add to the reaction drop-wise. After all gas evolution stops, filter the biphasic suspension to collect the title compound (38.18 g, 80%) as white needles. 1H NMR (DMSO-d6) δ 5.00 (d, 2H, J=2.5 Hz), 7.43 (m, 1H), 7.63 (m, 1H), 7.89 (t, 1H, J=8.4 Hz).

reactant | 4′-chloro-2′-fluoroacetophenone | 231.8 mmol, 40 g | ClC1=CC(=C(C=C1)C(C)=O)F | C8H6ClFO
reactant | methanol | 16 mL | CO | CH4O
reactant | sulfuryl chloride | 21.5 mL, 1.15 equiv. | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bicarbonate | 1 M, 400 mL | C([O-])(O)=O.[Na+]
solvent | heptane | 120 mL | CCCCCCC | C7H16
solvent | heptane | 120 mL | CCCCCCC | C7H16
product | 2-Chloro-1-(4-chloro-2-fluorophenyl)ethanone | ClCC(=O)C1=C(C=C(C=C1)Cl)F | C8H5Cl2FO
